US06962933B1
1-bromo-3-ethylbenzene
To a 50% aqueous sulfuric acid solution (43.6 g) of 3-ethylaniline (10.0 g, 82.5 mmol) was added dropwise at 0° C. an aqueous solution (16.5 mL) of sodium nitrite (6.83 g, 99.0 mmol) over 30 min. The obtained reaction mixture was stirred at 0° C. for 45 min. This diazonium salt solution was added by small portions to a 48% hydrobromic acid solution (82.5 mL) of copper(I) bromide (12.4 g, 86.6 mmol) being gently refluxed under heating. After the addition, the reaction mixture was refluxed under heating for 30 min. The reaction mixture was cooled to room temperature and extracted with ether. The extract was washed successively with 1N aqueous sodium hydroxide solution and saturated brine, filtrated, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=20:1) to give the title compound (6.13 g, yield 40%). oil.

reactant | sulfuric acid | 43.6 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-ethylaniline | 82.5 mmol, 10.0 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | sodium nitrite | 99.0 mmol, 16.5 mL, 6.83 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 82.5 mL | Br | BrH
catalyst | copper(I) bromide | 86.6 mmol, 12.4 g | [Cu]Br
product | 1-bromo-3-ethylbenzene | 6.13 g, yield 40% | BrC1=CC(=CC=C1)CC | C8H9Br
